US06762205B1
The procedure of Preparation Example 2 was repeated, except that 63 mg of (2Z)-2-[4-(N-sulfamoylamino)phenyl]-3-(4-methoxyphenyl)-prop-2-enenitrile was used in place of 4′-methoxy-2-biphenylacetonitrile, and 1,2-dichloroethane was used in place of methylene chloride. The resulting crude product was purified by TLC (using a 2:1 mixture of chloroform and acetone as the developing solvent) to obtain 17 mg of (2Z)-2-[4-(sulfamoylamino)phenyl]-3-(4-hydroxyphenyl)prop-2-enenitrile.

reactant | (2Z)-2-[4-(N-sulfamoylamino)phenyl]-3-(4-methoxyphenyl)-prop-2-enenitrile | 63 mg | S(N)(=O)(=O)NC1=CC=C(C=C1)/C(/C#N)=C/C1=CC=C(C=C1)OC | C16H15N3O3S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (2Z)-2-[4-(sulfamoylamino)phenyl]-3-(4-hydroxyphenyl)prop-2-enenitrile | 17 mg | S(N)(=O)(=O)NC1=CC=C(C=C1)/C(/C#N)=C/C1=CC=C(C=C1)O | C15H13N3O3S
